US05140011
8.0 g (22.6 mmol) of (αS,βS)-β-t-butoxycarbonylamino-α-[(S)-2-isopropyl-3-butenyl]cyclohexylpropanol are dissolved in 50 ml of 2.2-dimethoxypropane, treated with 0.8 g of p-toluenesulphonic acid hydrate and stirred at room temperature overnight. The crude product (5.34 g; 13.56 mmol) obtained after the usual working-up is dissolved in 200 ml of hexane, treated dropwise rapidly with 0.5 ml of borane-dimethyl sulphide complex (5 mmol based on borohydride) while cooling with ice and thereafter heated to reflux for 1 hour. Then, the reaction mixture is allowed to cool to room temperature, 30 ml of ethanol and 1.67 ml of 3N sodium hydroxide solution are added thereto in succession and finally 1.67 ml of 30% hydrogen peroxide are added dropwise thereto while cooling with ice. After completion of the addition the reaction solution is heated to reflux for 1 hour. Thereafter, the reaction solution is poured into 200 ml of water, extracted with ethyl acetate, the extracts are dried over sodium sulphate and evaporated to dryness under reduced pressure. Flash chromatography of the residue on silica gel with 1:1 mixture of ether and petroleum ether as the eluting agent yields 4 g (71%) of t-butyl 4-(cyclohexylmethyl)-5-(4-hydroxy-2-isopropylbutyl)-2,2-dimethyl-3-oxazolidinecarboxylate as a pale yellow solid, MS: 396 (M-CH3)+.

reactant | (αS,βS)-β-t-butoxycarbonylamino-α-[(S)-2-isopropyl-3-butenyl]cyclohexylpropanol | 22.6 mmol, 8.0 g | C(C)(C)(C)OC(=O)N[C@H]([C@](O)(C[C@H](C=C)C(C)C)C1CCCCC1)C | C21H39NO3
reactant | p-toluenesulphonic acid hydrate | 0.8 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | borane dimethyl sulphide | 5 mmol, 0.5 ml | B.CSC
reactant | sodium hydroxide | 3N, 1.67 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 1.67 ml | OO | H2O2
reactant | 2.2-dimethoxypropane | 50 ml | COC(C)(C)OC | C5H12O2
solvent | hexane | 200 ml | CCCCCC | C6H14
solvent | water | 200 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | t-butyl 4-(cyclohexylmethyl)-5-(4-hydroxy-2-isopropylbutyl)-2,2-dimethyl-3-oxazolidinecarboxylate | 4 g, 71% | C1(CCCCC1)CC1N(C(OC1CC(CCO)C(C)C)(C)C)C(=O)OC(C)(C)C | C24H45NO4
